US06277811B1
Preparation of Poly(DMAM-co-AA) (2:1) Copolymer
2-(Dimethylamino)ethyl methacrylate (90.00 g, 572.4 mmol), acrylic acid (20.63 g, 286.2 mmol), 2,2′-azobisisobutyronitrile (0.70 g, 4.3 mmol), 1,4-dioxane (345 ml) and 2-propanol (86 ml) are placed into a 1000 ml three-necked round-bottomed flask, fitted with a heating mantle, magnetic stirrer, internal thermometer and argon inlet. The mixture is sparged with nitrogen for 30 minutes to remove dissolved oxygen. The mixture is heated for 18 hours with stirring at 65° C. TLC (diethyl ether) indicates consumption of monomer. The mixture is concentrated under vacuum by rotary evaporation to remove the solvent. Water is added to make a 10% solution and the mixture is lyophilized and then pulverized in a blender to yield an off-white-peach powder. NMR is consistent with the desired compound.

reactant | 2-(Dimethylamino)ethyl methacrylate | 572.4 mmol, 90.00 g | C(C(=C)C)(=O)OCCN(C)C | C8H15NO2
reactant | acrylic acid | 286.2 mmol, 20.63 g | C(C=C)(=O)O | C3H4O2
reactant | 2,2′-azobisisobutyronitrile | 4.3 mmol, 0.70 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | 1,4-dioxane | 345 ml | O1CCOCC1 | C4H8O2
reactant | 2-propanol | 86 ml | CC(C)O | C3H8O
product | DMAM | CC(C)CC(C)OC(=O)/C=C\C(=O)OC(C)CC(C)C | C16H28O4
